* Created by KLayout
*** My special header ***

* cell NOR3
* pin A
* pin B
* pin C
* pin Y
* pin gnd
* pin vdd
.SUBCKT NOR3 A B C Y gnd vdd
* device instance $1 r0 *1 4,53.2 PMOS
XM$1 vdd A \$8 vdd PMOS L=1u W=10.2u AS=28.56p AD=6.12p PS=26u PD=11.4u
* device instance $2 r0 *1 6.2,53.2 PMOS
XM$2 \$8 B \$7 vdd PMOS L=1u W=10.2u AS=6.12p AD=6.12p PS=11.4u PD=11.4u
* device instance $3 r0 *1 8.4,53.2 PMOS
XM$3 \$7 C Y vdd PMOS L=1u W=10.2u AS=6.12p AD=28.56p PS=11.4u PD=26u
* device instance $4 r0 *1 4,8.2 NMOS
XM$4 gnd A Y gnd NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $5 r0 *1 8,8.2 NMOS
XM$5 Y B gnd gnd NMOS L=1u W=3.4u AS=5.1p AD=5.1p PS=6.4u PD=6.4u
* device instance $6 r0 *1 12,8.2 NMOS
XM$6 gnd C Y gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
.ENDS NOR3
